US07560551B2
A dry resealable pressure bottle, under nitrogen, was charged with 4-methylpyrazole (0.086 ml, 1.05 mmol). To this was added THF (1.3 ml, 0.2 M) and reaction mixture cooled to 0° C. 60% wt sodium hydride in mineral oil (44.0 mg, 1.10 mmol) was added slowly. Reaction mixture stirred at 0° C. for 15 minutes and 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (120 mg, 0.260 mmol) added slowly. Reaction kept at 0° C. for 10 minutes, then warmed up slowly to room temperature and placed in an oil bath. Reaction heated to 65° C. and stirred at this temperature overnight. Reaction mixture was cooled to 0° C. and diluted with water, and extracted with EtOAc. The organic layer was collected, dried over Na2SO4 and concentrated to afford an orange residue, which was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure 4-(4-methyl-1H-pyrazol-1-yl)-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine as a yellow solid. MS m/z=502 [M+H]+. Calc'd for C28H23N9O: 501.54.

reactant | 4-methylpyrazole | 1.05 mmol, 0.086 ml | CC=1C=NNC1 | C4H6N2
reactant | THF | 0.2 M, 1.3 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.260 mmol, 120 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H18ClN7O
solvent | water | O | H2O
product | 4-(4-methyl-1H-pyrazol-1-yl)-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | CC=1C=NN(C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C28H23N9O
